US06642389B2
a] 4-Benzyloxy-2-methyl-benzaldehyde
Dry N,N-dimethylformamide (34.2 ml, 444 mmol) was added dropwise with stirring and cooling under an argon atmosphere to phosphorous oxychloride (18.3 ml, 200 mmol) at such a rate that the temperature did not exceed 10° C. After 30 min stirring at 0° C., a solution of 1-benzyloxy-3-methyl-benzene (22 g, 111 mmol) in N,N-dimethylformamide (22 ml) was added dropwise within 30 min (for the preparation of 1-benzyloxy-3-methyl-benzene see: D. Bogdal, J. Pielichowski, A. Boron, Syn. Commun. 1998, 28, 3029-3039). The reaction mixture was stirred 30 min at ambient temperature and then continuously heated to 110° C. After 10 min at 110° C., the mixture was kept at 90° C. for 3.5 h, cooled to 10° C., neutralized with 25% aqueous sodium acetate, with cooling, and extracted with ethyl acetate. The combined organic layers were washed with saturated aqueous sodium bicarbonate and brine and dried over sodium sulfate. Removal of the solvent under reduced pressure gave a brown oil which was purified by column chromatography (silica gel, hexane/AcOEt=19/1) to give 4.3 g (19 mmol, 17%) of the title compound as yellow solid.

reactant | phosphorous oxychloride | 200 mmol, 18.3 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-benzyloxy-3-methyl-benzene | 111 mmol, 22 g | C(C1=CC=CC=C1)OC1=CC(=CC=C1)C | C14H14O
reactant | Boron | [B] | B
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | N,N-dimethylformamide | 22 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 444 mmol, 34.2 ml | CN(C=O)C | C3H7NO
product | 4-Benzyloxy-2-methyl-benzaldehyde | 19 mmol, 4.3 g, 17% | C(C1=CC=CC=C1)OC1=CC(=C(C=O)C=C1)C | C15H14O2
